### ISSUE TITLE
Fail to show termination for structural recursion on inductive predicate

### ISSUE THREAD

**Issue by jasonrute** [leanprover/lean4#1674]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

(This is originally due to Jozef Mikušinec on [PA stack exchange](https://proofassistants.stackexchange.com/questions/1766/in-lean-why-cannot-structural-recursion-on-propositions-be-used).)

The following recursion doesn't work.  If this is intentional (or a future feature), please close this issue.  I just wanted to mention it in case it was a bug or accidental omission.
```lean
inductive T : Prop where
  | nil (n: Nat)
  | fn (f: Nat → T)

def inc: T → T  -- error
  | T.nil n => T.nil (n+1)
  | T.fn f => T.fn fun n => inc (f n)
```
The error is:
```text
fail to show termination for
  inc
with errors
structural recursion cannot be used
```

The intended function `inc` can however be created directly with `induction` (or `T.rec`) as follows so it is logically valid.  (Also, because propositions are proof-irrelevant and induction can be used in these cases, this issue is likely not a high priority.)
```lean
theorem inc_ind: T → T := by
  intro t 
  induction t with 
  | nil n => exact T.nil (n+1)
  | fn f ih => exact T.fn ih
```

The following two similar cases however do work.

When `Prop` is replaced with `Type` the the recursion works:
```lean
inductive T' where
  | nil (n: Nat)
  | fn (f: Nat → T')

def inc': T' → T'
  | T'.nil n => T'.nil (n+1)
  | T'.fn f => T'.fn fun n => inc' (f n)
```

When the `(f : Nat -> T)` parameter in the predicate is replaced with a simpler `(f : T)` parameter, it works in Lean 4, but not in Lean 3 (community edition).  This suggests there was an intent to improve this behavior.
```lean
inductive T'' : Prop where
  | nil (n: Nat)
  | fn (f : T'')

def inc'': T'' → T''
  | T''.nil n => T''.nil (n+1)
  | T''.fn f => T''.fn (inc'' f)
```
```lean
-- lean 3 code
inductive T'' : Prop
  | nil (n: nat)
  | fn (f : T'')

def inc'': T'' → T''
  | (T''.nil n) := T''.nil (n+1)
  | (T''.fn f) := T''.fn (inc'' f)  -- error at `inc''` in Lean 3
```

### Steps to Reproduce

1. Enter code above into Lean 4.

**Expected behavior:** It would compile as written without need for `termination_by` or an inductive proof, since it is structural recursion similar to the other cases given above.

**Actual behavior:** Get a "structural recursion cannot be used" error.

**Reproduces how often:** Every time.

### Versions

macOS Monterey
Lean (version 4.0.0-nightly-2022-09-22, commit 708a777d7472, Release)
